US07179829B2
b) N-(trans-2-Aminocyclohexyl)-N′-(2-phenoxyphenyl)thiourea
A solution of 1.6 g of 2-phenoxyphenyl isothiocyanate in 10 ml of THF was added to a solution of 0.8 g of trans-1,2-diaminocyclohexane in 30 ml of THF, and the mixture was stirred at room temperature for about 4 hours. The solvent was evaporated and the residue was subsequently subjected to column chromatography on silica gel using a mixture of 10 parts of ethyl acetate, 5 parts of n-heptane, 5 parts of methylene chloride, 5 parts of methanol and 1 part of concentrated aqueous ammonia solution, giving the desired compound as an amorphous oily product.

reactant | 2-phenoxyphenyl isothiocyanate | 1.6 g | O(C1=CC=CC=C1)C1=C(C=CC=C1)N=C=S | C13H9NOS
reactant | trans-1,2-diaminocyclohexane | 0.8 g | N[C@H]1[C@@H](CCCC1)N | C6H14N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-(trans-2-Aminocyclohexyl)-N′-(2-phenoxyphenyl)thiourea | N[C@H]1[C@@H](CCCC1)NC(=S)NC1=C(C=CC=C1)OC1=CC=CC=C1 | C19H23N3OS
